*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:02:14 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "TBUFX12"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  TBUFX12 OE Y A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET OE 8.27943e-16
*|P (OE X 0 0.5000 0.6650)
*|I (Mmn0:g Mmn0 g X 0 0.3625 0.4800)
*|I (Mmn4@1:g Mmn4@1 g X 0 0.8325 0.4475)
*|I (Mmn4@2:g Mmn4@2 g X 0 1.2225 0.4475)
*|I (Mmn4@3:g Mmn4@3 g X 0 1.7075 0.4450)
*|I (Mmn4:g Mmn4 g X 0 1.9825 0.4450)
*|I (Mmp0:g Mmp0 g X 0 0.3625 1.1400)
*|I (Mmp4@1:g Mmp4@1 g X 0 0.8325 1.0825)
*|S (OE:2 0.3900 0.7200)
*|S (OE:7 0.8325 0.6450)
*|S (OE:8 0.7700 0.6450)
C1 Mmp4@1:g VSS 4.15874e-16
C2 Mmp0:g VSS 5.31152e-17
C3 Mmn4:g VSS 3.14062e-17
C4 Mmn4@3:g VSS 5.09329e-17
C5 Mmn4@2:g VSS 3.76037e-17
C6 Mmn4@1:g VSS 2.28131e-17
C7 Mmn0:g VSS 3.53238e-17
C8 OE:7 VSS 1.03551e-17
C9 OE:2 VSS 6.2738e-17
C10 OE:8 VSS 7.57606e-17
C11 OE VSS 3.20205e-17
Rl1 OE:7 OE:8 47.016560 $W=0.094
Rl2 OE:2 Mmn0:g 29.537926 $W=0.039
Rl3 OE:7 Mmn4@1:g 34.329510 $W=0.039
Rl4 Mmp0:g OE:2 73.768692 $W=0.039
Rl5 Mmp4@1:g OE:7 56.639961 $W=0.039
Rl6 Mmn4@2:g Mmp4@1:g 97.309753 $W=0.039
Rl7 Mmp4@1:g Mmn4@3:g 89.835159 $W=0.039
Rl8 Mmp4@1:g Mmn4:g 84.296883 $W=0.039
Rk9 OE:8 OE 0.157484 $W=0.1
Rk10 OE:2 OE 45.063263 $W=0.1
*
*|NET Y 8.81102e-16
*|P (Y X 0 4.3000 0.8550)
C12 Y VSS 8.81102e-16
*
*|NET A 1.86946e-15
*|P (A X 0 0.7000 0.8550)
*|I (Mmn3@1:g Mmn3@1 g X 0 0.6275 0.4475)
*|I (Mmn3@2:g Mmn3@2 g X 0 1.3975 0.4475)
*|I (Mmn3@3:g Mmn3@3 g X 0 1.6025 0.4450)
*|I (Mmn3:g Mmn3 g X 0 2.1825 0.4450)
*|I (Mmp1@1:g Mmp1@1 g X 0 2.5275 1.0825)
*|I (Mmp1@2:g Mmp1@2 g X 0 3.0525 1.0825)
*|I (Mmp1@3:g Mmp1@3 g X 0 3.3175 1.0900)
*|I (Mmp1:g Mmp1 g X 0 3.8225 1.2600)
C13 Mmp1:g VSS 8.06171e-17
C14 Mmp1@3:g VSS 6.15335e-17
C15 Mmp1@2:g VSS 5.32364e-17
C16 Mmp1@1:g VSS 4.02802e-17
C17 Mmn3:g VSS 3.35624e-17
C18 Mmn3@3:g VSS 3.80259e-17
C19 Mmn3@2:g VSS 2.34045e-17
C20 Mmn3@1:g VSS 5.39025e-17
C21 A VSS 1.4849e-15
Rl11 A Mmn3@1:g 98.768700 $W=0.039
Rl12 A Mmn3@2:g 30.286110 $W=0.039
Rl13 A Mmn3@3:g 28.079685 $W=0.039
Rl14 A Mmn3:g 84.334106 $W=0.039
Rl15 Mmp1@1:g A 78.330673 $W=0.039
Rl16 A Mmp1@2:g 24.232828 $W=0.039
Rl17 Mmp1@3:g A 84.593277 $W=0.039
Rl18 Mmp1:g A 114.264214 $W=0.039
*
*|NET OEb 1.22483e-15
*|I (Mmn0:d Mmn0 d X 0 0.2550 0.4800)
*|I (Mmn2:g Mmn2 g X 0 2.5925 0.3725)
*|I (Mmp0:d Mmp0 d X 0 0.2550 1.1400)
*|I (Mmp2@1:g Mmp2@1 g X 0 2.7425 1.0825)
*|I (Mmp2@2:g Mmp2@2 g X 0 2.9475 1.0825)
*|I (Mmp2@3:g Mmp2@3 g X 0 3.4225 1.0900)
*|I (Mmp2:g Mmp2 g X 0 3.7175 1.2600)
*|S (OEb:6 2.7700 1.3400)
*|S (OEb:15 0.2300 1.1400)
C22 Mmp2:g VSS 8.89918e-17
C23 Mmp2@3:g VSS 6.6494e-17
C24 Mmp2@2:g VSS 6.79285e-17
C25 Mmp2@1:g VSS 2.24603e-17
C26 Mmn2:g VSS 4.72479e-16
C27 Mmn0:d VSS 4.95678e-17
C28 OEb:15 VSS 2.07805e-16
C29 OEb:6 VSS 2.49099e-16
Rl19 Mmp2@1:g OEb:6 74.537926 $W=0.039
Rl20 Mmn2:g Mmp2@1:g 86.832108 $W=0.039
Rl21 Mmp2@2:g Mmn2:g 133.436661 $W=0.039
Rl22 Mmn2:g Mmp2@3:g 94.025833 $W=0.039
Rl23 Mmp2:g Mmn2:g 210.337631 $W=0.039
Rk24 OEb:15 OEb:6 1.840214 $W=0.09
Rk25 OEb:15 Mmn0:d 75.406357 $W=0.09
Rk26 OEb:15 Mmp0:d 20.666666 $W=1
*
*|NET 13 0
*|I (Mmn3@1:d Mmn3@1 d X 0 0.7300 0.4475)
*|I (Mmn4@1:s Mmn4@1 s X 0 0.7300 0.4475)
Rmw27 Mmn4@1:s Mmn3@1:d 0.001000 $W=1
*
*|NET pon 1.37684e-15
*|I (Mmn4@1:d Mmn4@1 d X 0 1.0275 0.4475)
*|I (Mmn4@3:d Mmn4@3 d X 0 1.8450 0.4450)
*|I (Mmp3@1:d Mmp3@1 d X 0 0.7800 1.0825)
*|I (Mmp5@1:g Mmp5@1 g X 0 4.1425 1.2100)
C30 Mmp5@1:g VSS 6.92231e-16
C31 Mmp3@1:d VSS 5.23535e-16
C32 Mmn4@3:d VSS 7.89243e-17
C33 Mmn4@1:d VSS 8.21445e-17
Rk28 Mmp3@1:d Mmn4@1:d 75.392609 $W=0.08
Rk29 Mmp3@1:d Mmn4@3:d 75.364243 $W=0.0885
Rk30 Mmp3@1:d Mmp5@1:g 46.943352 $W=0.08
*
*|NET 14 1.84769e-18
*|I (Mmn4@2:s Mmn4@2 s X 0 1.3100 0.4475)
*|I (Mmn3@2:d Mmn3@2 d X 0 1.3100 0.4475)
C34 Mmn4@2:s VSS 1.84769e-18
Rmw31 Mmn3@2:d Mmn4@2:s 0.001000 $W=1
*
*|NET 15 5.60508e-20
*|I (Mmn3@3:d Mmn3@3 d X 0 1.6550 0.4450)
*|I (Mmn4@3:s Mmn4@3 s X 0 1.6550 0.4450)
C35 Mmn3@3:d VSS 5.60508e-20
Rmw32 Mmn4@3:s Mmn3@3:d 0.001000 $W=1
*
*|NET 16 1.82655e-18
*|I (Mmn4:s Mmn4 s X 0 2.0825 0.4450)
*|I (Mmn3:d Mmn3 d X 0 2.0825 0.4450)
C36 Mmn4:s VSS 1.82655e-18
Rmw33 Mmn3:d Mmn4:s 0.001000 $W=1
*
*|NET non 1.11828e-15
*|I (Mmn1@1:d Mmn1@1 d X 0 2.5400 0.3725)
*|I (Mmn5@1:g Mmn5@1 g X 0 4.0275 0.4050)
*|I (Mmp2@1:d Mmp2@1 d X 0 2.8450 1.0825)
*|I (Mmp2@3:d Mmp2@3 d X 0 3.6450 1.2600)
*|S (non:13 3.9650 0.6350)
*|S (non:30 3.6150 0.9950)
C37 Mmp2@3:d VSS 4.5017e-17
C38 Mmp2@1:d VSS 1.23227e-16
C39 Mmn5@1:g VSS 3.66427e-16
C40 Mmn1@1:d VSS 3.26258e-16
C41 non:30 VSS 1.45693e-16
C42 non:13 VSS 1.11655e-16
Rl34 Mmn5@1:g non:13 54.579895 $W=0.094
Rk35 non:30 non:13 0.467544 $W=0.08
Rk36 Mmn1@1:d non:13 0.238251 $W=0.09
Rk37 non:30 Mmp2@1:d 62.640625 $W=0.08
Rk38 non:30 Mmp2@3:d 62.113289 $W=0.08
*
*|NET 5 4.32879e-18
*|I (Mmp1@1:d Mmp1@1 d X 0 2.6350 1.0825)
*|I (Mmp2@1:s Mmp2@1 s X 0 2.6350 1.0825)
C43 Mmp1@1:d VSS 4.32879e-18
Rmw39 Mmp2@1:s Mmp1@1:d 0.001000 $W=1
*
*|NET 6 2.85578e-18
*|I (Mmp2@2:s Mmp2@2 s X 0 3.0000 1.0825)
*|I (Mmp1@2:d Mmp1@2 d X 0 3.0000 1.0825)
C44 Mmp2@2:s VSS 2.85578e-18
Rmw40 Mmp1@2:d Mmp2@2:s 0.001000 $W=1
*
*|NET 7 2.85578e-18
*|I (Mmp1@3:d Mmp1@3 d X 0 3.3700 1.0900)
*|I (Mmp2@3:s Mmp2@3 s X 0 3.3700 1.0900)
C45 Mmp1@3:d VSS 2.85578e-18
Rmw41 Mmp2@3:s Mmp1@3:d 0.001000 $W=1
*
*|NET 8 2.14551e-18
*|I (Mmp2:s Mmp2 s X 0 3.7700 1.2600)
*|I (Mmp1:d Mmp1 d X 0 3.7700 1.2600)
C46 Mmp2:s VSS 2.14551e-18
Rmw42 Mmp1:d Mmp2:s 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0442P	AS=0.0494P	PD=0.86U	PS=0.96U
+ fw=2.6e-07 sa=1.7e-07 sb=1.50837e-06 sca=12.8392 scb=0.0126987 scc=0.00074151
Mmn3@1	Mmn3@1:d	Mmn3@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.195U
+ AD=0.0312P	AS=0.0494P	PD=0.71U	PS=0.96U
+ fw=1.95e-07 sa=4.35e-07 sb=1.92077e-06 sca=10.4876 scb=0.00973116 scc=0.000329538
Mmn4@1	Mmn4@1:d	Mmn4@1:g	Mmn4@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.195U
+ AD=0.06728P	AS=0.0312P	PD=1.08U	PS=0.71U
+ fw=1.95e-07 sa=6.4e-07 sb=1.84192e-06 sca=10.4876 scb=0.00973116 scc=0.000329538
Mmn4@2	Mmn4@1:d	Mmn4@2:g	Mmn4@2:s	VSS	g45n1hvt
+ L=0.045U	W=0.195U
+ AD=0.06728P	AS=0.02535P	PD=1.08U	PS=0.65U
+ fw=1.95e-07 sa=1.03e-06 sb=1.68885e-06 sca=10.4876 scb=0.00973116 scc=0.000329538
Mmn3@2	Mmn3@2:d	Mmn3@2:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.195U
+ AD=0.02535P	AS=0.0309P	PD=0.65U	PS=0.71U
+ fw=1.95e-07 sa=1.205e-06 sb=1.61705e-06 sca=10.4876 scb=0.00973116 scc=0.000329538
Mmn3@3	Mmn3@3:d	Mmn3@3:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.19U
+ AD=0.0114P	AS=0.0309P	PD=0.5U	PS=0.71U
+ fw=1.9e-07 sa=1.41e-06 sb=1.57605e-06 sca=10.353 scb=0.00952974 scc=0.000309813
Mmn4@3	Mmn4@3:d	Mmn4@3:g	Mmn4@3:s	VSS	g45n1hvt
+ L=0.045U	W=0.19U
+ AD=0.0437P	AS=0.0114P	PD=0.84U	PS=0.5U
+ fw=1.9e-07 sa=1.515e-06 sb=1.53461e-06 sca=10.353 scb=0.00952974 scc=0.000309813
Mmn4	Mmn4@3:d	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U
+ W=0.19U
+ AD=0.0437P	AS=0.02945P	PD=0.84U	PS=0.69U
+ fw=1.9e-07 sa=1.79e-06 sb=1.42605e-06 sca=10.353 scb=0.00952974 scc=0.000309813
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.19U
+ AD=0.02945P	AS=0.0309P	PD=0.69U	PS=0.71U
+ fw=1.9e-07 sa=1.99e-06 sb=1.34711e-06 sca=10.353 scb=0.00952974 scc=0.000309813
Mmn5@1	Y	Mmn5@1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.04082P	PD=0.84U	PS=0.83667U	M=12
+ fw=2.6e-07 sa=1.35827e-06 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn1@1	Mmn1@1:d	A	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.195U
+ AD=0.0326P	AS=0.0309P	PD=0.78U	PS=0.71U	M=2
+ fw=1.95e-07 sa=1.95128e-06 sb=1.285e-06 sca=10.2695 scb=0.00939499 scc=0.000302823
Mmn1	Mmn1@1:d	A	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.19U
+ AD=0.0304P	AS=0.03415P	PD=0.7U	PS=0.775U	M=2
+ fw=1.9e-07 sa=1.49816e-06 sb=2e-06 sca=7.92284 scb=0.00551663 scc=8.5052e-05
Mmn2	Mmn1@1:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.195U
+ AD=0.0326P	AS=0.0312P	PD=0.78U	PS=0.71U	M=2
+ fw=1.95e-07 sa=1.27449e-06 sb=1.96179e-06 sca=7.99316 scb=0.0056435 scc=9.07136e-05
Mmn2@2	Mmn1@1:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.19U
+ AD=0.0304P	AS=0.0304P	PD=0.7U	PS=0.7U	M=2
+ fw=1.9e-07 sa=1.57908e-06 sb=2e-06 sca=7.92284 scb=0.00551663 scc=8.5052e-05
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0663P	AS=0.08945P	PD=1.12U	PS=1.36U
+ fw=3.9e-07 sa=1.7e-07 sb=1.50135e-06 sca=24.3916 scb=0.0229031 scc=0.00193544
Mmp1@1	Mmp1@1:d	Mmp1@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.295U
+ AD=0.05015P	AS=0.0724P	PD=0.93U	PS=1.83U
+ fw=2.95e-07 sa=1.96085e-06 sb=1.37424e-06 sca=24.985 scb=0.0208309 scc=0.00278311
Mmp2@1	Mmp2@1:d	Mmp2@1:g	Mmp2@1:s	VDD	g45p1hvt
+ L=0.045U	W=0.295U
+ AD=0.0472P	AS=0.05015P	PD=0.91U	PS=0.93U
+ fw=2.95e-07 sa=1.97144e-06 sb=1.24305e-06 sca=24.985 scb=0.0208309 scc=0.00278311
Mmp2@2	Mmp2@1:d	Mmp2@2:g	Mmp2@2:s	VDD	g45p1hvt
+ L=0.045U	W=0.295U
+ AD=0.0472P	AS=0.0177P	PD=0.91U	PS=0.71U
+ fw=2.95e-07 sa=1.97492e-06 sb=1.11797e-06 sca=24.985 scb=0.0208309 scc=0.00278311
Mmp1@2	Mmp1@2:d	Mmp1@2:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.295U
+ AD=0.0177P	AS=0.08135P	PD=0.71U	PS=1.32U
+ fw=2.95e-07 sa=1.97669e-06 sb=1.0539e-06 sca=24.985 scb=0.0208309 scc=0.00278311
Mmp1@3	Mmp1@3:d	Mmp1@3:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.29U
+ AD=0.0174P	AS=0.08135P	PD=0.7U	PS=1.32U
+ fw=2.9e-07 sa=1.94931e-06 sb=9.47759e-07 sca=23.09 scb=0.0200797 scc=0.00245753
Mmp2@3	Mmp2@3:d	Mmp2@3:g	Mmp2@3:s	VDD	g45p1hvt
+ L=0.045U	W=0.29U
+ AD=0.064P	AS=0.0174P	PD=1.42U	PS=0.7U
+ fw=2.9e-07 sa=1.95293e-06 sb=8.86207e-07 sca=23.09 scb=0.0200797 scc=0.00245753
Mmp2	Mmp2@3:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U
+ W=0.29U
+ AD=0.064P	AS=0.0174P	PD=1.42U	PS=0.7U
+ fw=2.9e-07 sa=8.4931e-07 sb=2e-06 sca=10.9993 scb=0.00888516 scc=0.000178627
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.29U
+ AD=0.0174P	AS=0.08975P	PD=0.7U	PS=1.33U
+ fw=2.9e-07 sa=9.14483e-07 sb=2e-06 sca=10.9993 scb=0.00888516 scc=0.000178627
Mmp5@1	Y	Mmp5@1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0624P	AS=0.06403P	PD=1.1U	PS=1.11583U	M=12
+ fw=3.9e-07 sa=8.53333e-07 sb=2e-06 sca=13.5671 scb=0.012183 scc=0.000647513
Mmp3@1	Mmp3@1:d	A	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.295U
+ AD=0.0474P	AS=0.08093P	PD=0.92U	PS=1.595U	M=2
+ fw=2.95e-07 sa=4.35e-07 sb=1.91661e-06 sca=24.0377 scb=0.0205536 scc=0.00241838
Mmp3	Mmp3@1:d	A	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.29U
+ AD=0.05438P	AS=0.0724P	PD=0.955U	PS=1.83U	M=2
+ fw=2.9e-07 sa=1.39138e-06 sb=1.93759e-06 sca=25.2314 scb=0.0210442 scc=0.00282901
Mmp4@1	Mmp3@1:d	Mmp4@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.295U
+ AD=0.0474P	AS=0.12427P	PD=0.92U	PS=2.18U	M=2
+ fw=2.95e-07 sa=6.21695e-07 sb=1.97754e-06 sca=25.2842 scb=0.0209131 scc=0.00278313
Mmp4@2	Mmp3@1:d	Mmp4@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.29U
+ AD=0.05437P	AS=0.1124P	PD=0.955U	PS=1.83U	M=2
+ fw=2.9e-07 sa=1.59638e-06 sb=1.81034e-06 sca=25.2314 scb=0.0210442 scc=0.00282901
.ENDS
.END
