*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:02:30 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "TBUFX2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  TBUFX2 OE Y A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET OE 3.29739e-16
*|P (OE X 0 0.3000 0.6650)
*|I (Mmn4:g Mmn4 g X 0 0.3475 0.4775)
*|I (Mmn0:g Mmn0 g X 0 0.7575 0.4775)
*|I (Mmp4:g Mmp4 g X 0 0.2925 1.0575)
*|I (Mmp0:g Mmp0 g X 0 0.7575 1.0575)
*|S (OE:2 0.3200 0.6850)
*|S (OE:5 0.7575 0.6550)
*|S (OE:6 0.7050 0.6550)
*|S (OE:8 0.3200 0.6850)
C1 Mmp0:g VSS 5.79083e-17
C2 Mmp4:g VSS 3.34052e-17
C3 Mmn0:g VSS 2.34614e-17
C4 Mmn4:g VSS 2.76418e-17
C5 OE:2 VSS 8.41921e-17
C6 OE:6 VSS 1.0313e-16
Rl1 OE:5 OE:6 45.516560 $W=0.094
Rl2 Mmn4:g OE:2 40.384617 $W=0.039
Rl3 OE:5 Mmn0:g 36.252586 $W=0.039
Rl4 OE:2 Mmp4:g 89.560440 $W=0.039
Rl5 Mmp0:g OE:5 109.329506 $W=0.039
Rk6 OE:8 OE 0.009977 $W=0.12
Rk7 OE:6 OE:8 0.230092 $W=0.1
Rk8 OE:2 OE:8 45.000000 $W=0.1
*
*|NET Y 1.37457e-16
*|P (Y X 0 1.9000 0.8550)
*|I (Mmn5:d Mmn5 d X 0 1.8650 0.3600)
*|I (Mmp5:d Mmp5 d X 0 1.8950 1.0950)
C7 Mmp5:d VSS 7.29007e-17
C8 Mmn5:d VSS 4.46192e-17
C9 Y VSS 1.99375e-17
Rk9 Mmn5:d Y 75.252434 $W=0.1
Rk10 Mmp5:d Y 20.807600 $W=0.1
*
*|NET A 5.75442e-16
*|P (A X 0 0.7000 0.8550)
*|I (Mmn3:g Mmn3 g X 0 0.5525 0.4775)
*|I (Mmn1:g Mmn1 g X 0 1.4975 0.3825)
*|I (Mmp3:g Mmp3 g X 0 0.5625 1.0575)
*|I (Mmp1:g Mmp1 g X 0 1.4975 1.0575)
*|S (A:2 0.5575 0.8350)
*|S (A:4 0.6150 0.8350)
*|S (A:6 1.4600 0.7200)
C10 Mmp1:g VSS 5.36401e-17
C11 Mmp3:g VSS 3.64698e-17
C12 Mmn1:g VSS 4.62516e-17
C13 Mmn3:g VSS 4.83728e-17
C14 A:2 VSS 5.04474e-17
C15 A:4 VSS 2.77299e-17
C16 A:6 VSS 1.85844e-16
C17 A VSS 1.26686e-16
Rl11 A:2 A:4 49.958984 $W=0.094
Rl12 A:2 Mmn3:g 106.844757 $W=0.039
Rl13 A:6 Mmn1:g 87.694366 $W=0.039
Rl14 Mmp3:g A:2 41.460148 $W=0.039
Rl15 Mmp1:g A:6 74.232826 $W=0.039
Rk16 A:6 A 46.046383 $W=0.0865
Rk17 A A:4 0.050996 $W=0.099
*
*|NET net144 0
*|I (Mmn4:s Mmn4 s X 0 0.4500 0.4775)
*|I (Mmn3:d Mmn3 d X 0 0.4500 0.4775)
Rmw18 Mmn3:d Mmn4:s 0.001000 $W=1
*
*|NET pon 5.18056e-16
*|I (Mmn4:d Mmn4 d X 0 0.2550 0.4775)
*|I (Mmp4:d Mmp4 d X 0 0.4275 1.0575)
*|I (Mmp5:g Mmp5 g X 0 1.7925 1.0950)
*|S (pon:6 0.3950 1.0100)
C18 Mmp5:g VSS 2.48728e-16
C19 Mmp4:d VSS 2.03648e-16
C20 Mmn4:d VSS 6.56797e-17
Rk19 pon:6 Mmn4:d 75.644073 $W=0.09
Rk20 pon:6 Mmp4:d 62.000000 $W=0.09
Rk21 pon:6 Mmp5:g 46.315632 $W=0.09
*
*|NET OEb 2.80569e-16
*|I (Mmn0:d Mmn0 d X 0 0.8675 0.4775)
*|I (Mmn2:g Mmn2 g X 0 1.2925 0.3825)
*|I (Mmp0:d Mmp0 d X 0 0.8825 1.0575)
*|I (Mmp2:g Mmp2 g X 0 1.3425 1.0575)
*|S (OEb:2 1.2925 0.6500)
*|S (OEb:3 1.0800 0.6500)
*|S (OEb:5 0.8950 0.6500)
C21 Mmp2:g VSS 6.27169e-17
C22 Mmp0:d VSS 5.7005e-17
C23 Mmn2:g VSS 3.08515e-17
C24 Mmn0:d VSS 2.17299e-17
C25 OEb:5 VSS 3.77947e-17
C26 OEb:2 VSS 3.57913e-17
C27 OEb:3 VSS 3.46798e-17
Rl22 OEb:2 OEb:3 70.856987 $W=0.094
Rl23 OEb:2 Mmn2:g 70.867966 $W=0.039
Rl24 Mmp2:g OEb:2 112.741310 $W=0.039
Rk25 OEb:3 OEb:5 0.107736 $W=0.1
Rk26 OEb:5 Mmn0:d 75.117393 $W=0.1
Rk27 OEb:5 Mmp0:d 62.246025 $W=0.1
*
*|NET non 3.13104e-16
*|I (Mmn2:d Mmn2 d X 0 1.3950 0.3825)
*|I (Mmn5:g Mmn5 g X 0 1.7625 0.3600)
*|I (Mmp2:d Mmp2 d X 0 1.2500 1.0575)
*|S (non:3 1.6500 0.5900)
*|S (non:6 1.3950 0.5600)
C28 Mmp2:d VSS 7.19336e-17
C29 Mmn5:g VSS 8.11016e-17
C30 Mmn2:d VSS 3.60197e-17
C31 non:6 VSS 5.95749e-17
C32 non:3 VSS 6.44747e-17
Rl28 Mmn5:g non:3 63.732487 $W=0.064
Rk29 non:6 non:3 0.189013 $W=0.09
Rk30 non:6 Mmn2:d 75.097466 $W=0.08
Rk31 non:6 Mmp2:d 62.411121 $W=0.09
*
*|NET net127 1.93634e-18
*|I (Mmp2:s Mmp2 s X 0 1.4200 1.0575)
*|I (Mmp1:d Mmp1 d X 0 1.4200 1.0575)
C33 Mmp2:s VSS 1.93634e-18
Rmw32 Mmp1:d Mmp2:s 0.001000 $W=1
*
*Instance Section
*
Mmn4	Mmn4:d	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=5.85e-07 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0232P	PD=0.61U	PS=0.61U
+ fw=1.45e-07 sa=3.45e-07 sb=3.8e-07 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02537P	AS=0.0232P	PD=0.64U	PS=0.61U
+ fw=1.45e-07 sa=5.5e-07 sb=1.75e-07 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0203P	PD=0.61U	PS=0.57U
+ fw=1.45e-07 sa=1.4e-07 sb=8.15e-07 sca=8.15925 scb=0.00587019 scc=8.94977e-05
Mmn1	Mmn2:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0434P	PD=0.61U	PS=0.96U
+ fw=1.45e-07 sa=3.45e-07 sb=6.1e-07 sca=8.15925 scb=0.00587019 scc=8.94977e-05
Mmn5	Mmn5:d	Mmn5:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0399P	PD=0.84U	PS=0.88U	M=2
+ fw=2.6e-07 sa=3.84423e-07 sb=3.45e-07 sca=7.84363 scb=0.00546499 scc=9.84911e-05
Mmp4	Mmp4:d	Mmp4:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04837P	AS=0.0301P	PD=0.88U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=6.7e-07 sca=33.0431 scb=0.0334326 scc=0.00333002
Mmp3	Mmp4:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04838P	AS=0.0639P	PD=0.88U	PS=1.8U
+ fw=2.15e-07 sa=4.1e-07 sb=4e-07 sca=27.5463 scb=0.0242522 scc=0.00301933
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04408P	AS=0.0639P	PD=0.84U	PS=1.8U
+ fw=2.15e-07 sa=6.05e-07 sb=2.05e-07 sca=26.4598 scb=0.0232447 scc=0.00301689
Mmp2	Mmp2:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.02365P	PD=0.71U	PS=0.65U
+ fw=2.15e-07 sa=1.4e-07 sb=7.95e-07 sca=26.1509 scb=0.0231087 scc=0.00301684
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.02365P	AS=0.1208P	PD=0.65U	PS=1.96U
+ fw=2.15e-07 sa=2.95e-07 sb=6.4e-07 sca=26.6838 scb=0.0233875 scc=0.00301701
Mmp5	Mmp5:d	Mmp5:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0877P	PD=1.1U	PS=1.51U	M=2
+ fw=3.9e-07 sa=3.92564e-07 sb=3.45e-07 sca=34.13 scb=0.0245441 scc=0.00340271
.ENDS
.END
