*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:02:55 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "TBUFX4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  TBUFX4 OE Y A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET OE 3.58808e-16
*|P (OE X 0 0.5000 0.6650)
*|I (Mmn4:g Mmn4 g X 0 0.3425 0.4500)
*|I (Mmn0:g Mmn0 g X 0 0.8175 0.5075)
*|I (Mmp4:g Mmp4 g X 0 0.3425 1.1650)
*|I (Mmp0:g Mmp0 g X 0 0.8175 1.0775)
*|S (OE:2 0.3150 0.7100)
*|S (OE:5 0.8175 0.6575)
*|S (OE:6 0.6750 0.6800)
C1 Mmp0:g VSS 5.17027e-17
C2 Mmp4:g VSS 4.6791e-17
C3 Mmn0:g VSS 3.41722e-17
C4 Mmn4:g VSS 4.29685e-17
C5 OE:5 VSS 1.88729e-17
C6 OE:2 VSS 6.6866e-17
C7 OE:6 VSS 5.42927e-17
C8 OE VSS 4.31417e-17
Rl1 OE:5 OE:6 76.548737 $W=0.039
Rl2 OE:2 Mmn4:g 37.230232 $W=0.039
Rl3 OE:5 Mmn0:g 28.079685 $W=0.039
Rl4 Mmp4:g OE:2 87.230232 $W=0.039
Rl5 Mmp0:g OE:5 118.464302 $W=0.039
Rk6 OE:6 OE 0.099972 $W=0.1
Rk7 OE OE:2 45.103821 $W=0.1
*
*|NET Y 2.49137e-16
*|P (Y X 0 2.1000 0.8550)
*|I (Mmn5@1:d Mmn5@1 d X 0 1.9750 0.4000)
*|I (Mmp5@1:d Mmp5@1 d X 0 2.0400 1.1350)
C9 Mmp5@1:d VSS 1.37417e-16
C10 Mmn5@1:d VSS 7.89835e-17
C11 Y VSS 3.27362e-17
Rk8 Mmn5@1:d Y 0.209994 $W=0.09
Rk9 Mmp5@1:d Y 0.073804 $W=0.1
*
*|NET A 7.23288e-16
*|P (A X 0 0.9000 0.6650)
*|I (Mmn3:g Mmn3 g X 0 0.4775 0.4500)
*|I (Mmn1:g Mmn1 g X 0 1.5525 0.4000)
*|I (Mmp3:g Mmp3 g X 0 0.5475 1.1650)
*|I (Mmp1:g Mmp1 g X 0 1.5975 1.1350)
*|S (A:2 0.5050 0.8600)
*|S (A:5 1.5800 0.6400)
*|S (A:7 0.8650 0.6650)
C12 Mmp1:g VSS 8.34227e-17
C13 Mmp3:g VSS 5.41052e-17
C14 Mmn1:g VSS 2.79728e-17
C15 Mmn3:g VSS 6.26237e-17
C16 A:7 VSS 1.57718e-16
C17 A:2 VSS 1.1827e-16
C18 A:5 VSS 1.98984e-16
C19 A VSS 2.01907e-17
Rl10 A:2 Mmn3:g 90.179672 $W=0.039
Rl11 A:5 Mmn1:g 26.098015 $W=0.039
Rl12 Mmp3:g A:2 28.196526 $W=0.039
Rl13 Mmp1:g A:5 99.174934 $W=0.039
Rk14 A:7 A 0.003669 $W=0.1
Rk15 A:5 A:7 46.010048 $W=0.08
Rk16 A:7 A:2 45.405087 $W=0.08
*
*|NET net144 0
*|I (Mmn4:s Mmn4 s X 0 0.4100 0.4500)
*|I (Mmn3:d Mmn3 d X 0 0.4100 0.4500)
Rmw17 Mmn3:d Mmn4:s 0.001000 $W=1
*
*|NET pon 6.43723e-16
*|I (Mmn4:d Mmn4 d X 0 0.2500 0.4500)
*|I (Mmp4:d Mmp4 d X 0 0.4450 1.1650)
*|I (Mmp5@1:g Mmp5@1 g X 0 1.9025 1.1350)
*|S (pon:9 0.4450 1.1750)
C20 Mmp5@1:g VSS 3.59302e-16
C21 Mmp4:d VSS 2.09479e-16
C22 Mmn4:d VSS 7.49417e-17
Rk18 pon:9 Mmn4:d 75.715195 $W=0.09
Rk19 pon:9 Mmp4:d 20.666666 $W=0.08
Rk20 pon:9 Mmp5@1:g 46.338352 $W=0.08
*
*|NET OEb 3.44786e-16
*|I (Mmn0:d Mmn0 d X 0 0.9775 0.5075)
*|I (Mmn2:g Mmn2 g X 0 1.3175 0.4000)
*|I (Mmp0:d Mmp0 d X 0 0.9100 1.0775)
*|I (Mmp2:g Mmp2 g X 0 1.4925 1.1350)
*|S (OEb:2 1.3175 0.7550)
*|S (OEb:3 1.2000 0.7550)
*|S (OEb:5 1.0950 0.7550)
C23 Mmp2:g VSS 8.61061e-17
C24 Mmp0:d VSS 6.80612e-17
C25 Mmn2:g VSS 3.65499e-17
C26 Mmn0:d VSS 4.71348e-17
C27 OEb:5 VSS 4.4537e-17
C28 OEb:2 VSS 3.32014e-17
C29 OEb:3 VSS 2.9196e-17
Rl21 OEb:2 OEb:3 59.531952 $W=0.094
Rl22 OEb:2 Mmn2:g 71.817078 $W=0.039
Rl23 Mmp2:g OEb:2 119.539139 $W=0.039
Rk24 OEb:3 OEb:5 0.054225 $W=0.1
Rk25 OEb:5 Mmn0:d 75.179016 $W=0.0935
Rk26 OEb:5 Mmp0:d 62.324921 $W=0.08
*
*|NET non 4.08479e-16
*|I (Mmn2:d Mmn2 d X 0 1.4350 0.4000)
*|I (Mmn5@1:g Mmn5@1 g X 0 1.8725 0.4000)
*|I (Mmp2:d Mmp2 d X 0 1.4000 1.1350)
*|S (non:5 1.7700 0.6550)
*|S (non:9 1.3900 0.8000)
C30 Mmp2:d VSS 4.52813e-17
C31 Mmn5@1:g VSS 1.41165e-16
C32 Mmn2:d VSS 6.3616e-17
C33 non:9 VSS 5.97279e-17
C34 non:5 VSS 9.86886e-17
Rl27 Mmn5@1:g non:5 69.925308 $W=0.039
Rk28 non:9 non:5 0.362795 $W=0.08
Rk29 non:9 Mmn2:d 75.237984 $W=0.09
Rk30 non:9 Mmp2:d 62.148808 $W=0.09
*
*|NET net127 3.89141e-18
*|I (Mmp2:s Mmp2 s X 0 1.5450 1.1350)
*|I (Mmp1:d Mmp1 d X 0 1.5450 1.1350)
C35 Mmp2:s VSS 3.89141e-18
Rmw31 Mmp1:d Mmp2:s 0.001000 $W=1
*
*Instance Section
*
Mmn4	Mmn4:d	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0234P	PD=0.8U	PS=0.7U
+ fw=2.6e-07 sa=1.4e-07 sb=5.39904e-07 sca=11.0409 scb=0.0104003 scc=0.000454168
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0234P	AS=0.05887P	PD=0.7U	PS=1.11U
+ fw=2.6e-07 sa=2.75e-07 sb=4.04904e-07 sca=11.0409 scb=0.0104003 scc=0.000454168
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03987P	AS=0.05887P	PD=0.84U	PS=1.11U
+ fw=1.45e-07 sa=6.15e-07 sb=2.75e-07 sca=13.6097 scb=0.014254 scc=0.000755054
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0494P	AS=0.0439P	PD=0.9U	PS=1.24U
+ fw=2.6e-07 sa=1e-07 sb=1.31e-06 sca=8.97712 scb=0.00732387 scc=0.000196032
Mmn1	Mmn2:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0494P	AS=0.0715P	PD=0.9U	PS=1.07U
+ fw=2.6e-07 sa=3.35e-07 sb=1.075e-06 sca=8.97712 scb=0.00732387 scc=0.000196032
Mmn5@1	Mmn5@1:d	Mmn5@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.04777P	PD=0.84U	PS=0.8875U	M=4
+ fw=2.6e-07 sa=6.55e-07 sb=7.55e-07 sca=8.97712 scb=0.00732387 scc=0.000196032
Mmp4	Mmp4:d	Mmp4:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0546P	PD=1.1U	PS=1.06U
+ fw=3.9e-07 sa=1.4e-07 sb=5.07308e-07 sca=21.9686 scb=0.0221039 scc=0.00141228
Mmp3	Mmp4:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.08412P	PD=1.1U	PS=1.33U
+ fw=3.9e-07 sa=3.45e-07 sb=3.02308e-07 sca=18.49 scb=0.0162883 scc=0.00128386
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.08412P	PD=0.71U	PS=1.33U
+ fw=2.15e-07 sa=6.15e-07 sb=1.4e-07 sca=22.3241 scb=0.0209633 scc=0.0022509
Mmp2	Mmp2:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0234P	PD=1.06U	PS=0.9U
+ fw=3.9e-07 sa=1.4e-07 sb=1.235e-06 sca=20.5009 scb=0.0171135 scc=0.00197772
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.1014P	PD=0.9U	PS=1.3U
+ fw=3.9e-07 sa=2.45e-07 sb=1.13e-06 sca=20.5009 scb=0.0171135 scc=0.00197772
Mmp5@1	Mmp5@1:d	Mmp5@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.07605P	AS=0.0702P	PD=1.17U	PS=1.14U	M=4
+ fw=3.9e-07 sa=5.5e-07 sb=8.25e-07 sca=20.6353 scb=0.0171431 scc=0.00197772
.ENDS
.END
